US05686445
N-[4-[(4,5-Dihydro-2-methylpyrazolo[4,3-d][1]-benzazepin-6(2H)-yl)carbonyl]phenyl]-2-methylbenzamide
To a mixture of 0.420 g of 2,4,5,6-tetra-hydro-2-methyl-6-(4-aminobenzoyl)pyrazolo[4,3-d][1]-benzazepine and 275 μl of triethylamine in 6 ml of methylene chloride and 2 ml of dioxane is added a solution of 215 μl of 2-methylbenzoyl chloride in 1.5 ml of dioxane. The reactants are stirred under argon for 4.5 hours. The volatiles are evaporated in vacuo to a residue which is dissolved in methylene chloride and washed with 10% NaHCO3 and brine. The organic layer is treated with activated carbon, dried with MgSO4 and evaporated in vacuo to give 660 mg of a tan foam residue. The residue is purified by column chromatography on silica gel by elution with 30% ethyl acetate-methylene chloride to give 590 mg of the desired product as white crystalline solid, m.p. 246°-248° C; HR FABMS: (M+H)=437.1972.

reactant | 2,4,5,6-tetra-hydro-2-methyl-6-(4-aminobenzoyl)pyrazolo[4,3-d][1]-benzazepine | 0.420 g | CN1N=C2C(CCN(C3=C2C=CC=C3)C(C3=CC=C(C=C3)N)=O)=C1 | C19H18N4O
reactant | triethylamine | 275 μl | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzoyl chloride | 215 μl | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | N-[4-[(4,5-Dihydro-2-methylpyrazolo[4,3-d][1]-benzazepin-6(2H)-yl)carbonyl]phenyl]-2-methylbenzamide | 660 mg | CN1N=C2C(CCN(C3=C2C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O)=C1 | C27H24N4O2
